US05166367
5-[3-[[(2,3-Dihydro-1,4-benzodioxin-2-yl)methyl]amino]propoxyl-2(1H)-quinolinone
2,3-Dihydro-1,4-benzodioxin-2-methanamine (0.56 g, 4.0 mmole), 5-(3-chloropropoxy)carbostyril (0.70 g, 3.1 mmole), diisopropylethylamine (0.65 g, 5.0 mmole) and sodium iodide (1.0 g, 6.5 mmole) were combined in 50 ml of DMF and heated at 80° C. for 24 hours under a nitrogen atmosphere. The solvent was then removed and replaced with 250 ml of dichloromethane. The mixture was washed with an equal volume of saturated aqueous sodium bicarbonate, with saturated aqueous sodium chloride, dried over sodium sulfate, filtered, and concentrated in vacuum. The residue was column chromatographed on 50 g of silica gel with a gradient elution commencing with chloroform and ending with 2% methanol in chloroform. The product-containing fractions were combined and concentrated in vacuum and the residue crystallized from isopropanol with the addition of 4N isopropanolic HCl to give 125 mg of title compound as a tan solid, monohydrochloride, quarter hydrate, m.p. 242°-244° C.

reactant | 2,3-Dihydro-1,4-benzodioxin-2-methanamine | 4.0 mmole, 0.56 g | O1C(COC2=C1C=CC=C2)CN | C9H11NO2
reactant | 5-(3-chloropropoxy)carbostyril | 3.1 mmole, 0.70 g | ClCCCOC1=C2C=CC(NC2=CC=C1)=O | C12H12ClNO2
reactant | diisopropylethylamine | 5.0 mmole, 0.65 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium iodide | 6.5 mmole, 1.0 g | [I-].[Na+]
reactant | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 3-[[(2,3-Dihydro-1,4-benzodioxin-2-yl)methyl]amino]propoxyl-2(1H)-quinolinone | 125 mg | O1C(COC2=C1C=CC=C2)CNCCCON2C(C=CC1=CC=CC=C21)=O | C21H22N2O4
